US08609680B2
To a suspension of (4-methoxy-2-nitro-phenyl)-acetic acid methyl ester (154 mg, 0.68 mmol) in 3 mL of acetic acid was added acetic anhydride (3.0 mL, 30.0 mmol) and zinc (nanopowder, 220 mg, 3.36 mmol) in portions over 5 min at 0° C. The reaction mixture was maintained for 30 minutes at 0° C. and 1.5 h at room temperature. Additional zinc powder (110 mg, 1.68 mmol) was added, and the reaction mixture was stirred overnight at room temperature. After filtration, the mixture was partitioned between 50 mL of ethyl acetate and 10 mL of saturated aqueous NaHCO3. The organic layer was washed with brine, dried over Na2SO4 and concentrated in vacuo. The crude product was purified on a Biotage (Biotage Inc.) 10 g silica column, eluted with 0-40% EtOAc in heptane to provide 49 mg (68%) of (2-acetylamino-4-methoxy-phenyl)-acetic acid methyl ester. 1H NMR (CDCl3) δ 2.23 (s, 3H), 3.57 (s, 2H), 3.73 (s, 3H), 3.81 (s, 3H), 6.66 (dd, 1H), 7.09 (d, 1H), 7.57 (d, 1H).

reactant | (4-methoxy-2-nitro-phenyl)-acetic acid methyl ester | 0.68 mmol, 154 mg | COC(CC1=C(C=C(C=C1)OC)[N+](=O)[O-])=O | C10H11NO5
reactant | acetic anhydride | 30.0 mmol, 3.0 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 3.36 mmol, 220 mg | [Zn] | Zn
catalyst | zinc | 1.68 mmol, 110 mg | [Zn] | Zn
product | (2-acetylamino-4-methoxy-phenyl)-acetic acid methyl ester | 49 mg, 68% | COC(CC1=C(C=C(C=C1)OC)NC(C)=O)=O | C12H15NO4
